US04243406
The procedure of Example 20 was employed utilizing ethyl-2-(4'-fluorobenzoyl)-3-dimethylaminopropenoate in lieu of ethyl-2-(3',4'-dichlorobenzoyl)-3-dimethylaminopropenoate to yield upon recrystallization with pentane, ethyl-5-(4'-fluorophenyl)-4-isoxazolecarboxylate (1.75 g.; 74.5% yield) as a white solid having a melting point of 34°-38° C. and the following analysis:

reactant | ethyl-2-(4'-fluorobenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=CC=C(C=C1)F)=O)=O | C14H16FNO3
reactant | ethyl-2-(3',4'-dichlorobenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C14H15Cl2NO3
solvent | pentane | CCCCC | C5H12
product | ethyl-5-(4'-fluorophenyl)-4-isoxazolecarboxylate | 1.75 g, 74.5% yield | C(C)OC(=O)C=1C=NOC1C1=CC=C(C=C1)F | C12H10FNO3
